* postlayout-cl-model: full
.lib '{PDK_MODELS}/cornerHBT.lib' hbt_typ
.lib '{PDK_MODELS}/cornerMOSlv.lib' mos_tt
.lib '{PDK_MODELS}/cornerRES.lib' res_typ
.lib '{PDK_MODELS}/cornerDIO.lib' dio_tt

* driver_dut — post-layout DUT wrapper; do not edit by hand
.include {IND_SHUNT_INC}
.subckt driver_dut outp outn inp inn vdd vss mgate
XQ2 outn inn em vss npn13G2 we=70n le=900n nx=2
X$2 outn nlp2 vss rsil w=0.5u l=2.35u ps=0u m=1
XQ1 outp inp em vss npn13G2 we=70n le=900n nx=2
X$4 outp nlp1 vss rsil w=0.5u l=2.35u ps=0u m=1
Xesd_vdd_p vdd outp vss diodevdd_2kv m=1
Xesd_vss_p vdd outp vss diodevss_2kv m=1
Xesd_vdd_n vdd outn vss diodevdd_2kv m=1
Xesd_vss_n vdd outn vss diodevss_2kv m=1
Xclamp vdd vss nmoscl_2 m=1 pre_layout=0
Xmdiode mgate mgate vss vss sg13_lv_nmos l=1u w=392u as=133.28p ad=133.28p ps=811.2u pd=811.2u rfmode=0 pre_layout=0
Xtail em mgate vss vss sg13_lv_nmos l=1u w=783.68u as=266.4512p ad=266.4512p ps=1621.08u pd=1621.08u rfmode=0 pre_layout=0
Xl1 vdd nlp1 vss ind_shunt_drv
Xl2 vdd nlp2 vss ind_shunt_drv
.ends driver_dut
